US07285558B2
Preparation of 5-chloro-1-(methylsulfonyl)-1H-indole-3-carbaldehyde
NaH (0.36 gm, 12.6 mmol) was added to a solution of 2.26 gm (12.6 mmol) 5-chloro-1H-indole-3-carbaldehyde in THF cooled in an ice water bath After 20 m stirring, 1.4 g (12.6 mmol) methanesulfonyl chloride was added, and the solution was warmed to room temperature with stirring overnight. The mixture was diluted with EtOAc and washed with water and brine, dried (MgSO4) and concentrated. Normal phase chromatography (CH2Cl2 followed by gradient elution to 10% EtOAc in CH2Cl2) afforded 1.9 gm of the title compound as a white solid, 1H NMR (DMSO) δ 9.75 (s, 1H), 8.0 (s, 1H), 7.9 (s, 1H), 7.5 (d, 1H), 7.1 (d, 1H), 2.3 (s, 3H).

reactant | NaH | 12.6 mmol, 0.36 gm | [H-].[Na+]
reactant | 5-chloro-1H-indole-3-carbaldehyde | 12.6 mmol, 2.26 gm | ClC=1C=C2C(=CNC2=CC1)C=O | C9H6ClNO
reactant | methanesulfonyl chloride | 12.6 mmol, 1.4 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-chloro-1-(methylsulfonyl)-1H-indole-3-carbaldehyde | 1.9 gm | ClC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C)C=O | C10H8ClNO3S
